Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ with history of diverculosis, CAD s/p 4v 
CABG, AAA, who presents as a transfer from ___ for 
evaluation of active divercular bleed visualized on colonoscopy. 
 
 On ___, he presented to ___ with one episode of 
BRBPR (blood in toilet bowl mixed with stool). He was evaluated 
in the ED there with initial Hb 13.5. He had CTA abd showing 
diverticulosis and stable AAA. He was admitted for presumed 
diverticular bleed. There, he had no further bleeds, remained 
hemodynamically stable and did not require blood transfusion. He 
was evaluated by GI with plan for outpatient colonoscopy. His 
baby aspirin was stopped. Discharge Hb was 9.7.  
 He underwent outpatient colonoscopy on ___ which revealed 
extensive diverticulosis, bleeding diverticula with a large 
fresh clot in the area of the splenic flexure and sigmoid colon. 
He was referred to ___ for ___ evaluation.  
 Pt took his home metoprolol and diltiazem this morning.  
 In the ED, initial VS were 97.8 82 115/56 20 96% RA.  
 - Exam notable for lack of BRBPR  
 - Labs showed: Hb 9.2 (discharge Hb 9.7), normal coags, Cr 1.  
 - No imaging was performed.  
 - Given his clinical stability, ___ consult was deferred in the 
ED.  
 - Transfer VS were 98 66 123/77 16 100% RA  
 Decision was made to admit to medicine for serial H/H.  
 On arrival to the floor, patient reports feeling well. Denies 
any lightheadedness, dizziness, chest pain, or shortness of 
breath. No abdominal pain, nausea, or vomiting. Last bowel 
movement with blood was noted on ___. Bowel movements clear 
this AM with prep.  
 
Past Medical History:
-CAD s/p CABG x 4 (___)  
-Diverticular bleed (___)  
-Nephrolithiasis  
-AAA - noted ___ on CT, most recently measured 4cm  
-s/p appendectomy (___)  
-s/p tonsillectomy/adenoidectomy  
-Hx of lung nodule followed on CT  
-Osteoarthritis 
 
Social History:
___
Family History:
Mother had hx of cancer  
Father had COPD  
 
Physical Exam:
ADMISSION EXAM:
VS: 98.0PO 132 / 65 R Sitting 70 18 95 RA  
GENERAL: Well-appearing gentleman lying in bed in NAD  
HEENT: AT/NC, EOMI, PERRL, MMM  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, distant heart sounds  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Soft, nontender, nondistended; well-healed abdominal 
scars in LLQ  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact; ambulating around room normally  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM:
98.1 126-147/58-65 54-70 ___
GENERAL: Well-appearing gentleman lying in bed in NAD  
HEENT: AT/NC, EOMI, PERRL, MMM  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, distant heart sounds  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Soft, nontender, nondistended; well-healed abdominal 
scars in LLQ  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: Grossly intact. Ambulating around floor w/o issue
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:

___ 04:35PM BLOOD WBC-6.5 RBC-2.82* Hgb-9.2* Hct-27.5* 
MCV-98 MCH-32.6* MCHC-33.5 RDW-12.9 RDWSD-45.1 Plt ___
___ 04:35PM BLOOD Neuts-60.7 ___ Monos-7.1 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-3.95 AbsLymp-1.93 AbsMono-0.46 
AbsEos-0.10 AbsBaso-0.03
___ 04:35PM BLOOD Plt ___
___ 04:55PM BLOOD ___ PTT-26.3 ___
___ 04:35PM BLOOD Glucose-90 UreaN-17 Creat-1.0 Na-142 
K-4.1 Cl-105 HCO3-24 AnGap-17

DISCHARGE LABS:

___ 09:55AM BLOOD WBC-7.2 RBC-2.84* Hgb-9.2* Hct-28.2* 
MCV-99* MCH-32.4* MCHC-32.6 RDW-13.0 RDWSD-46.4* Plt ___
___ 09:55AM BLOOD Plt ___
___ 08:15AM BLOOD Glucose-90 UreaN-19 Creat-1.1 Na-138 
K-4.5 Cl-104 HCO3-19* AnGap-___ with history of diverculosis, CAD s/p 4v CABG, AAA, who 
presents as a transfer from ___ for evaluation of 
active divercular bleed visualized on colonoscopy. This revealed 
active diverticular bleeding at the splenic flexure/sigmoid 
colon. He was then transferred to ___ for potential ___ 
intervention. However, he had no clinical evidence of active 
bleeding and remained hemodynamically stable. His hemoglobin 
declined only minimally after transfer from ___ (9.7 -> 9.2) 
and remained stable overnight. He denied any further episodes of 
hematochezia and was not otherwise symptomatic. He will be 
discharged to follow up with his PCP this week.

TRANSITIONAL ISSUES:
MEDICATIONS HELD: Aspirin 81 mg PO DAILY
[]Patient to follow up with his PCP ___ 1 week of discharge
[]Discharge Hgb 9.2. Please check CBC at follow up appointment
#CODE: Full (presumed) 
#CONTACT: ___ (wife/HCP): ___ ___ 
(daughter/hcp#2)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Multivitamins 1 TAB PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Diltiazem Extended-Release 120 mg PO DAILY  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until told to by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-diverticular bleed
-acute blood loss anemia

SECONDARY DIAGNOSIS:
-abdominal aortic aneurysm 
-Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were hospitalized at ___ 
because of bleeding found during your colonoscopy.

WHAT HAPPENED WHILE I WAS HERE?
-You did not have any more bleeding.
-Your blood counts were stable.

WHAT SHOULD I DO WHEN I GET HOME?
-Call your doctor if you have any blood with bowel movements.
-Drink water to avoid constipation.
-Eat foods that have fiber.

We wish you all the best!
-Your ___ Team
 
Followup Instructions:
___